US06114390
b) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[[1-(ethoxycarbonylmethyl)-1H-indol-3-yl]acetyl]-ornithinamide
Prepared analogously to Example 69a) from 1-(ethoxycarbonylmethyl)-1H-indole-3-acetic acid, (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride and TBTU in a yield of 56% of theory.

reactant | 1-(ethoxycarbonylmethyl)-1H-indole-3-acetic acid | C(C)OC(=O)CN1C=C(C2=CC=CC=C12)CC(=O)O | C14H15NO4
reactant | (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride | Cl.NC(=O)NCC1=CC=C(C=C1)CNC([C@H](N)CCCNC(=N[N+](=O)[O-])N)=O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[[1-(ethoxycarbonylmethyl)-1H-indol-3-yl]acetyl]-ornithinamide | yield of 56% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(CC1=CN(C2=CC=CC=C12)CC(=O)OCC)=O)CCCNC(=N[N+](=O)[O-])N)=O | C29H37N9O7
